US05866572
Using an analogous procedure to that described in Example 32, 4-(3-chloro-4-fluoroanilino)-6-hydroxy-7-methoxyquinazoline was reacted with 3-chloromethylpyridine, hydrochloride salt to give 4-(3-chloro-4-fluoroanilino)-7-methoxy-6-(3-pyridylmethoxy)-quinazoline in 18% yield;

reactant | 4-(3-chloro-4-fluoroanilino)-6-hydroxy-7-methoxyquinazoline | ClC=1C=C(NC2=NC=NC3=CC(=C(C=C23)O)OC)C=CC1F | C15H11ClFN3O2
reactant | 3-chloromethylpyridine, hydrochloride salt | Cl.ClCC=1C=NC=CC1
product | 4-(3-chloro-4-fluoroanilino)-7-methoxy-6-(3-pyridylmethoxy)-quinazoline | 18% yield | ClC=1C=C(NC2=NC=NC3=CC(=C(C=C23)OCC=2C=NC=CC2)OC)C=CC1F | C21H16ClFN4O2
